US06156757
1,2,3,4-tetrahydro-2-methyl-6-nitrobenzofuro[3,2-c]pyridine (0.0224 mol), prepared according to the procedure described in J. Chem. Soc. (C), 1971, p53-60, was dissolved in 1,2-dichloroethane (40 ml), and cooled to 0° C. At this temperature, (1-chloroethyl) acetylchloride (0.0291 mol) was added dropwise. The suspension was stirred and refluxed for 2 hours. 1,2-dichloroethane was evaporated. The mixture was dissolved in methanol, stirred and refluxed for 2 hours, then filtered. Both the filtrate and crystals were treated with 2 N Na2CO3 and this mixture was extracted with CH2Cl2. The separated organic layer was dried, filtered, and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH 90/10). The desired fractions were collected and the solvent was evaporated, yielding 1.5 g 1,2,3,4-tetrahydro-6-nitrobenzofuro[3,2-c]-pyridine (intern. 4).

reactant | 1,2,3,4-tetrahydro-2-methyl-6-nitrobenzofuro[3,2-c]pyridine | 0.0224 mol | CN1CC2=C(CC1)OC1=C2C=CC=C1[N+](=O)[O-] | C12H12N2O3
reactant | (1-chloroethyl) acetylchloride | 0.0291 mol | ClC(C)CC(=O)Cl | C4H6Cl2O
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 1,2,3,4-tetrahydro-6-nitrobenzofuro[3,2-c]-pyridine | 1.5 g | [N+](=O)([O-])C1=CC=CC2=C1OC1=C2CNCC1 | C11H10N2O3
